US05128466
Diethyl bis(2-cyanoethyl)malonate
To a solution of diethyl malonate (81 g) in 100 g of 1,4-dioxane containing Triton B (10g of 40% methanol solution) was added dropwise acrylonitrile (55 g) in a period of 30 minutes. The reaction is highly exothermic, and the temperature was controlled at 30°-40° C. by means of a water bath. The reaction mixture was stirred overnight, and later poured into 600 ml of ice-water containing hydrochloric acid (5 ml of conc. HCl). The white precipitate formed was collected by filtration and washed with water. The crude product (m.p. 61°-63° C., 100% yield) was used for the next step without further purification.

reactant | diethyl malonate | 81 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | methanol | CO | CH4O
reactant | acrylonitrile | 55 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | 1,4-dioxane | 100 g | O1CCOCC1 | C4H8O2
product | Diethyl bis(2-cyanoethyl)malonate | 100% yield | C(#N)CCC(C(=O)OCC)(C(=O)OCC)CCC#N | C13H18N2O4
